US05496834
A mixture of N-benzyloxycarbonyl-(L)-homoserine (9.0 g), 1-hydroxybenzotriazole (HOBt) (5.4 g) and N,N-dimethylformamide (DMF) (50 ml) was provided and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (WSCD.HCl) (7.5 g) was added to the mixture under ice-cooling. The whole mixture was stirred at room temperature for 14 hours. The reaction mixture was then poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with 1% aqueous citric acid, water, saturated aqueous sodium hydrogen carbonate and saturated aqueous sodium chloride in the order mentioned and dried over MgSO4 and the solvent was distilled off, whereby (S)-3-(N-benzyloxycarbonylamino)tetrahydrofuran-2-one (7.0 g, 84.3%) was obtained. This product was recrystallized from dichloromethane-isopropyl ether. Colorless needles, m.p. 129°-130° C. Optical rotation [α]D -0.5° (C=0.52, CHCl3).

reactant | N-benzyloxycarbonyl-(L)-homoserine | 9.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCO)C(=O)O | C12H15NO5
reactant | 1-hydroxybenzotriazole | 5.4 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 7.5 g | Cl.C(C)N=C=NCCCN(C)C
solvent | water | O | H2O
product | (S)-3-(N-benzyloxycarbonylamino)tetrahydrofuran-2-one | 7.0 g, 84.3% | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(OCC1)=O | C12H13NO4
